US09193723B2
5-(3-(1,1-dimethylethylsulfinamido)oxetan-3-yl)thiophene-2-carboxylic acid
Butyllithium (6.16 ml, 15.41 mmol) was added dropwise to a stirred solution of diisopropylamine (1.919 ml, 13.69 mmol) in tetrahydrofuran (10 ml) at −78° C. The solution was allowed to warm to room temperature and then added dropwise by syringe to a stirred −78° C. solution of thiophene-2-carboxylic acid (0.877 g, 6.85 mmol) in tetrahydrofuran (30 ml). The resulting suspension was stirred for 40 minutes at −78° C. when a solution of 2-methyl-N-(oxetan-3-ylidene)propane-2-sulfinamide (1 g, 5.71 mmol) in tetrahydrofuran (10 ml) was added dropwise. After the addition was complete, the reaction mixture was allowed to warm to room temperature, quenched with saturated ammonium chloride and diluted with a water to dissolve the remaining solids. The aqueous solution was extracted with ethyl acetate, adjusted to pH 2 by addition of 1N aqueous hydrochloric acid and re-extracted with ethyl acetate and methylene chloride. The organic extracts were dried with magnesium sulfate, filtered, concentrated and purified by normal phase chromatography to give the title compound.

reactant | Butyllithium | 15.41 mmol, 6.16 ml | C(CCC)[Li]
reactant | diisopropylamine | 13.69 mmol, 1.919 ml | C(C)(C)NC(C)C | C6H15N
reactant | thiophene-2-carboxylic acid | 6.85 mmol, 0.877 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 2-methyl-N-(oxetan-3-ylidene)propane-2-sulfinamide | 5.71 mmol, 1 g | CC(C)(C)S(=O)N=C1COC1 | C7H13NO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(3-(1,1-dimethylethylsulfinamido)oxetan-3-yl)thiophene-2-carboxylic acid | CC(C)(S(=O)NC1(COC1)C1=CC=C(S1)C(=O)O)C | C12H17NO4S2
